US05482515
N-Methyl-3,4-dihydroisoquinolinium o-toluenesulfonate (Imine Quat OTs)
The title compound was prepared using the procedure described by Koelsch et al in J. Am. Chem. Soc. (1953) 75, 2095. In a 250-ml one-necked round-bottomed flask equipped with a magnetic stir bar and a reflux condenser were placed 3,4-dihydroisoquinolinium (8.27 grams, 63 mmol) and 40 ml of methanol. The mixture was stirred and cooled to 0° C. A solution of methyl p-toluenesulfonate (11.73 g, 63 mmol) and 70 ml of methanol was added dropwise. The color of the solution remained clear and yellow. The mixture was heated to reflux for 6 hours. The methanol was then removed in vacuo to provide a quantitative yield (20 g) of an off-white solid (mp 115°-119° C.). The solid was pulverized and washed with 40 ml of acetone at room temperature. Suction filtration provided a white solid in 88% yield: mp 124°-127° C. 1H NMR (D2O): δ 2.27 (s,3H), 3.15 (t,2H), 3.73 (S,3H), 3.93 (t,2H), 7.18 (m,8H), 8.77 (s, 1H). Impurities observed at 4.46 (s), 8.0-8.3 (m), 9.4 (s) were due to N-methyl-isoquinoline p-toluenesulfonate.

reactant | 3,4-dihydroisoquinolinium | 63 mmol, 8.27 grams | C1=[NH+]CCC2=CC=CC=C12
reactant | methyl p-toluenesulfonate | 63 mmol, 11.73 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | N-Methyl-3,4-dihydroisoquinolinium o-toluenesulfonate | 88% yield | C=1(C(=CC=CC1)S(=O)(=O)[O-])C.C[N+]1=CC2=CC=CC=C2CC1 | InChI=1S/C10H12N.C7H8O3S/c1-11-7-6-9-4-2-3-5-10(9)8-11;1-6-4-2-3-5-7(6)11(8,9)10/h2-5,8H,6-7H2,1H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
